US07141352B2
In a nitrogen atmosphere, a mixture of crude 2-(1H-benzimidazol-1-yl)ethanol as prepared in Synthesis Example 1, 156 g of methyl methoxyacetate, 3.0 g of sodium methoxide, and 200 g of diglyme was heated under reflux for 20 hours while distilling off the methanol formed during the reaction. The solvent was distilled off in vacuo. The reaction mixture was subjected to conventional aqueous work-up and then purified by column chromatography, obtaining 2-(1H-benzimidazol-1-yl)ethyl methoxyacetate (yield 65%).

reactant | 2-(1H-benzimidazol-1-yl)ethanol | N1(C=NC2=C1C=CC=C2)CCO | C9H10N2O
reactant | methyl methoxyacetate | 156 g | COCC(=O)OC | C4H8O3
reactant | sodium methoxide | 3.0 g | C[O-].[Na+]
solvent | diglyme | 200 g | COCCOCCOC | C6H14O3
product | 2-(1H-benzimidazol-1-yl)ethyl methoxyacetate | yield 65% | COCC(=O)OCCN1C=NC2=C1C=CC=C2 | C12H14N2O3
